US09260397B2
1-(4-fluorophenyl)-3-heptyl imidazolium bromide
According to the general synthesis procedure, 3.09 mmol (0.500 g) 1-(4-fluorophenyl)imidazole and 3.09 mmol (0.509 mg) of 1-bromoheptane are dissolved in 5 ml THF and heated for 12 h to 120° C.

reactant | 1-(4-fluorophenyl)imidazole | 3.09 mmol, 0.500 g | FC1=CC=C(C=C1)N1C=NC=C1 | C9H7FN2
reactant | 1-bromoheptane | 3.09 mmol, 0.509 mg | BrCCCCCCC | C7H15Br
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 1-(4-fluorophenyl)-3-heptyl imidazolium bromide | [Br-].FC1=CC=C(C=C1)[N+]1=CN(C=C1)CCCCCCC | InChI=1S/C16H22FN2.BrH/c1-2-3-4-5-6-11-18-12-13-19(14-18)16-9-7-15(17)8-10-16;/h7-10,12-14H,2-6,11H2,1H3;1H/q+1;/p-1
